US06982274B2
4-Fluoro-1H-indazole-5-carbonitrile
A total of 8.55 9 of 2,4-difluoro-3-formyl-benzonitrile obtained in Production Example II-13-a was dissolved in 40 ml of tetrahydrofuran and 40 ml of methanol, and 5.1 ml of hydrazine monohydrate was added, followed by stirring at room temperature for three days and was further stirred at 50° C. for 3 hours and at 70° C. for 3 hours. The reaction mixture was added with 150 ml of ice-water, 300 ml of ethyl acetate and 100 ml of tetrahydrofuran were added, and unnecessary matters were filtered off. The organic layer was sequentially washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:toluene=1:9 to 1:4), to give 509 mg of the title compound as bright yellow crystals. In addition, a portion with impurities was purified again by silica gel column chromatography (ethyl acetate:n-hexane=1:4 to 1:0), to give 1.80 g of the title compound as bright yellow crystals.

reactant | 2,4-difluoro-3-formyl-benzonitrile | FC1=C(C#N)C=CC(=C1C=O)F | C8H3F2NO
reactant | hydrazine monohydrate | 5.1 ml | O.NN
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Fluoro-1H-indazole-5-carbonitrile | 509 mg | FC1=C2C=NNC2=CC=C1C#N | C8H4FN3
